US08252810B2
(1) 4-Benzyloxybutyric acid N,N′-dimethyl hydrazide
After dissolving 4-benzylbutyric acid (500 mg) in N,N-dimethylformamide (10 ml), 1,1′-carbonyldiimidazole (628 mg) was added and the mixture was stirred at room temperature for 1 hour. After then adding 1,2-dimethylhydrazine hydrochloride (515 mg), the mixture was stirred at room temperature for 62 hours. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water and brine in that order and then dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the title compound (357 mg).

reactant | 4-benzylbutyric acid | 500 mg | C(C1=CC=CC=C1)CCCC(=O)O | C11H14O2
reactant | 1,1′-carbonyldiimidazole | 628 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,2-dimethylhydrazine hydrochloride | 515 mg | Cl.CNNC
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-Benzyloxybutyric acid N,N′-dimethyl hydrazide | 357 mg | CN(NC)C(CCCOCC1=CC=CC=C1)=O | C13H20N2O2
